US04119710
1-(4'-Amino-3'-fluoro-phenyl)-2-isopropylamino-ethanol,
m.p. of the hydrochloride: 156°-158° C. (decomp.), was prepared from 1-(4'-acetylamino-3'-fluoro-phenyl)-2-isopropylamino-ethanol analogous to Example 4.

reactant | hydrochloride | Cl | ClH
reactant | 1-(4'-acetylamino-3'-fluoro-phenyl)-2-isopropylamino-ethanol | C(C)(=O)NC1=C(C=C(C=C1)C(CNC(C)C)O)F | C13H19FN2O2
product | 1-(4'-Amino-3'-fluoro-phenyl)-2-isopropylamino-ethanol | NC1=C(C=C(C=C1)C(CNC(C)C)O)F | C11H17FN2O
